US07439260B2
Step 1: 7-bromo-4-pyridin-3-yl-2H-chromen-2-one
Commercially available 7-hydroxy-4-(3-pyridyl)coumarin (1.48 g, 6.19 mmol) and triphenylphosphine dibromide (5.22 g, 12.4 mmol) were heated in a sand bath at 320-350° for 1.5 h. The cooled solid was taken up with ethanol (200 ml) and silica gel (100 g) and evaporated to dryness. Column chromatography (toluene/acetone; 80:20) gave 0.56 g of the title compound.

reactant | 7-hydroxy-4-(3-pyridyl)coumarin | 6.19 mmol, 1.48 g | OC1=CC=C2C(=CC(OC2=C1)=O)C=1C=NC=CC1 | C14H9NO3
reactant | triphenylphosphine dibromide | 12.4 mmol, 5.22 g | [Br-].[Br-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 7-bromo-4-pyridin-3-yl-2H-chromen-2-one | 0.56 g | BrC1=CC=C2C(=CC(OC2=C1)=O)C=1C=NC=CC1 | C14H8BrNO2
